US09034874B2
d) 4-nitrophenyl 1-(6-oxo-1,6-dihydropyridazin-3-yl)piperidin-4-yl carbonate
To a solution of 6-(4-hydroxypiperidin-1-yl)pyridazin-3(2H)-one (3.9 g, 20 mmol) in pyridine (10 mL) was added DIPEA (3.87 g, 30.0 mmol) and 4-nitrophenyl carbonochloridate (6.03 g, 30 mmol) and the resulting mixture was stirred at 30° C. for 2 h. The mixture was concentrated under reduced pressure and the residue was purified by silica gel chromatography (DCM to DCM/MeOH=20/1) to afford the title compound (3.3 g, 46%) as a white solid. [LCMS: Rt=1.47 min, m/z 361.1 (M+H)]+.

reactant | 6-(4-hydroxypiperidin-1-yl)pyridazin-3(2H)-one | 20 mmol, 3.9 g | OC1CCN(CC1)C=1C=CC(NN1)=O | C9H13N3O2
reactant | DIPEA | 30.0 mmol, 3.87 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-nitrophenyl carbonochloridate | 30 mmol, 6.03 g | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 4-nitrophenyl 1-(6-oxo-1,6-dihydropyridazin-3-yl)piperidin-4-yl carbonate | 3.3 g, 46% | C(OC1=CC=C(C=C1)[N+](=O)[O-])(OC1CCN(CC1)C1=NNC(C=C1)=O)=O | C16H16N4O6
